US07517532B2
Step 2: (±)-5-Acetyl-2-(4-fluorobenzyl)-7-(hydroxymethyl)-2,5-diazabicyclo-[4.1.0]heptane-3-one
To a solution of the exo isomer of ethyl 5-acetyl-2-(4-fluorobenzyl)-3-oxo-2,5-diazabicyclo[4.1.0]heptane-7-carboxylate (3.3 g, 9.87 mmol) in 32 ml EtOH at room temperature was added sodium borohydride (398 mg, 10.5 mmol). After stirring overnight, the reaction mixture was treated with 200 mL MeOH, stirred for 1 h and then concentrated. The residue was dissolved in dichloromethane (100 mL), treated with 1N HCl (10 mL) and water (20 mL). The aqueous phase was back extracted with chloroform (2×50 mL). The combined organic phases were dried over sodium sulfate, filtered and concentrated. The residue was purified by column chromatography on silica gel using ethyl acetate and methanol as eluents to give title product.

reactant | ethyl 5-acetyl-2-(4-fluorobenzyl)-3-oxo-2,5-diazabicyclo[4.1.0]heptane-7-carboxylate | 9.87 mmol, 3.3 g | C(C)(=O)N1CC(N(C2C(C12)C(=O)OCC)CC1=CC=C(C=C1)F)=O | C17H19FN2O4
reactant | sodium borohydride | 10.5 mmol, 398 mg | [BH4-].[Na+]
reactant | MeOH | 200 mL | CO | CH4O
solvent | EtOH | 32 ml | CCO | C2H6O
product | (±)-5-Acetyl-2-(4-fluorobenzyl)-7-(hydroxymethyl)-2,5-diazabicyclo-[4.1.0]heptane-3-one | C(C)(=O)N1CC(N(C2C(C12)CO)CC1=CC=C(C=C1)F)=O | C15H17FN2O3
